### PR TITLE
feat(Paper): two conjectures about weakly first countable spaces

### PR DESCRIPTION
**Pull request by felixpernegger**
Problem 3 and 4 of https://www.math.md/files/basm/y2013-n2-3/y2013-n2-3-(pp37-46).pdf.pdf

See #1849.

I guess weakly first countable could be defined better, but maybe this is enough for this repo.

### CODE REVIEW

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+      ¬ FirstCountableTopology X
+
+/-- Problem 3 in [Ar2013]: Give an example in ZFC of a weakly first-
+countable compact space X which is not first countable. -/
+def existsWeaklyFirstCountableCompactNotFirstCountable :
+    ExistsWeaklyFirstCountableCompactNotFirstCountable := by sorry
+
+/-- Under CH, such a space exists as constructed in [Ya1976] by Yakovlev. -/
+@[category research solved, AMS 54]
+theorem CH.existsWeaklyFirstCountableCompactNotFirstCountable (CH : ℵ₁ = 𝔠) :
```
Comment (felixpernegger) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]: Since I want to formalise some more problems (see #1849) in general topology where we have statements like this, do you think this is a good way to state "holds under Continuum hypothesis"?
Is ```CH.``` an appropriate name?

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 2]
```diff
@@ -0,0 +1,88 @@
...
+@[category undergraduate, AMS 54]
+theorem exists_weakly_first_countable_not_first_countable : ∃ (X : Type*) (_ : TopologicalSpace X),
+      WeaklyFirstCountableTopology X ∧ ¬ FirstCountableTopology X := by sorry
+
+/-- Every first countable space is weakly first countable,
+simply take $N x$ as a countable neighborhood basis of $x$. -/
+@[category test, AMS 54]
+instance FirstCountableTopology.weaklyFirstCountableTopology (X : Type*) [TopologicalSpace X]
+    [FirstCountableTopology X] : WeaklyFirstCountableTopology X where
+    nhds_countable_weak_basis := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]: I think these would be reasonable to add to `FormalConjecturesForMathlib` (with proof_wanted for statements that have a sorry - you can also keep those as problems in this file)

Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]:
```suggestion
  nhds_countable_weak_basis := by sorry
```

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 3]
```diff
@@ -0,0 +1,88 @@
...
+  Doklady Akademii Nauk. Vol. 229. No. 6. Russian Academy of Sciences, 1976.
+  https://www.mathnet.ru/links/016f74007f9f96fa3aadae05cbd98457/dan40570.pdf (in Russian)
+-/
+
+open TopologicalSpace
+open scoped Cardinal
+
+namespace WeaklyFirstCountable
+
+/-- A topologocal space $X$ is called *weakly first countable* if there exists a function
```
Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]:
```suggestion
/-- A topological space $X$ is called *weakly first countable* if there exists a function
```

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+* $O ⊆ X$ is open iff $∀ x ∈ O, ∃ n : ℕ, V x n ⊆ O$
+-/
+class WeaklyFirstCountableTopology (X : Type*) [TopologicalSpace X] : Prop where
+  nhds_countable_weak_basis : ∃ V : X → ℕ → Set X, ∀ (x : X), Antitone (V x) ∧ ∀ (n : ℕ), x ∈ V x n ∧
+    ∀ O : Set X, IsOpen O ↔ ∀ x ∈ O, ∃ k : ℕ, V x k ⊆ O
+
+/-- There are weakly first countable spaces which are not first countable,
+for example the [Arens Space](https://topology.pi-base.org/spaces/S000156). -/
+@[category undergraduate, AMS 54]
+theorem exists_weakly_first_countable_not_first_countable : ∃ (X : Type*) (_ : TopologicalSpace X),
```
Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]:
```suggestion
theorem exists_weakly_first_countable_not_first_countable : ∃ (X : Type) (_ : TopologicalSpace X),
```
Same below

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 5]
```diff
@@ -0,0 +1,88 @@
...
+@[category research open, AMS 54]
+theorem existsWeaklyFirstCountableCompactBig : answer(sorry) ↔
+    ∃ (X : Type*) (_ : TopologicalSpace X),
+      WeaklyFirstCountableTopology X ∧ CompactSpace X ∧ 𝔠 < #X := by sorry
+
+/-- Problem 3 in [Ar2013]: Give an example in ZFC of a weakly first-
+countable compact space X such that $𝔠 < |X|$. -/
+def ExistsWeaklyFirstCountableCompactNotFirstCountable : Prop :=
+    ∃ (X : Type*) (_ : TopologicalSpace X), WeaklyFirstCountableTopology X ∧ CompactSpace X ∧
+      ¬ FirstCountableTopology X
```
Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean:89]: Copy-pasta?

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 6]
```diff
@@ -0,0 +1,88 @@
...
+
+/-- Problem 4 in [Ar2013]: Give an example in ZFC of a weakly first-
+countable compact space X which is not first countable. -/
+def existsWeaklyFirstCountableCompactNotFirstCountable :
```
Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]:
```suggestion
lemma existsWeaklyFirstCountableCompactNotFirstCountable :
```

File: FormalConjectures/Paper/WeaklyFirstCountable.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/Paper/WeaklyFirstCountable.lean]: Yeah, this looks fine. You might even wrap it in `Fact` so that you can use it as a class

File: FormalConjectures/Paper/WeaklyFirstCountable.lean (hunk 5 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/WeaklyFirstCountable.lean:89]: wrong description oops

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 7]
```diff
@@ -0,0 +1,89 @@
...
+open TopologicalSpace
+open scoped Cardinal
+
+namespace WeaklyFirstCountable
+
+/-- A topological space $X$ is called *weakly first countable* if there exists a function
+$N : X → ℕ → Set X, such that:
+
+* For all $x : X, n : ℕ$ we have $x ∈ V x n$
+* For all $x : X, n : ℕ$: $V (n + 1) x ⊆ V n x$
```
Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]: Inconsistent order of arguments

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 8]
```diff
@@ -0,0 +1,89 @@
...
+* $O ⊆ X$ is open iff $∀ x ∈ O, ∃ n : ℕ, V x n ⊆ O$
+-/
+class WeaklyFirstCountableTopology (X : Type*) [TopologicalSpace X] : Prop where
+  nhds_countable_weak_basis : ∃ V : X → ℕ → Set X, ∀ (x : X), Antitone (V x) ∧ ∀ (n : ℕ), x ∈ V x n ∧
+    ∀ O : Set X, IsOpen O ↔ ∀ x ∈ O, ∃ k : ℕ, V x k ⊆ O
```
Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]:
```suggestion
    (\nhds x).HasBasis (fun _ \mapsto True) (V x)
```

File: FormalConjectures/Paper/WeaklyFirstCountable.lean [hunk 9]
```diff
@@ -0,0 +1,89 @@
...
+@[category undergraduate, AMS 54]
+theorem exists_weakly_first_countable_not_first_countable : ∃ (X : Type) (_ : TopologicalSpace X),
+      WeaklyFirstCountableTopology X ∧ ¬ FirstCountableTopology X := by sorry
+
+/-- Every first countable space is weakly first countable,
+simply take $N x$ as a countable neighborhood basis of $x$. -/
+@[category test, AMS 54]
+instance FirstCountableTopology.weaklyFirstCountableTopology (X : Type*) [TopologicalSpace X]
+    [FirstCountableTopology X] : WeaklyFirstCountableTopology X where
+  nhds_countable_weak_basis := by sorry
```
Comment (YaelDillies) [inline FormalConjectures/Paper/WeaklyFirstCountable.lean]: Prove this?

File: FormalConjectures/Paper/WeaklyFirstCountable.lean (hunk 8 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/WeaklyFirstCountable.lean]: The $V x n$ don't necessarily have to be neighborhoods of $x$.
